US07022707B2
2-(2-Fluorobenzyloxy)-5-pyridylmethanol:
to a stirred solution of 6-(2-fluorobenzyloxy)nicotinic acid (0.89 g) in THF (10 ml) at 0° C. under Ar was added dropwise a solution of lithium aluminium hydride (1.0 M, 5.5 ml). The mixture was warmed to room temperature and stirred for 2 h. Saturated potassium sodium tartrate solution (1 ml) was added to the mixture followed by ethyl acetate (10 ml). The mixture was stirred for 30 min, filtered and concentrated in vacuo to give the product as a clear oil (0.63 g) which was used without further purification; δH (400 MHz, CDCl3) 8.14 (1H, d, J 1.5 Hz), 7.63 (1H, dd, J 8.5, 2.5 Hz), 7.49 (1H, dt, J 7.5, 1 Hz), 7.29 (1H, m), 7.13 (1H, dt, J 7.5, 1 Hz), 7.02 (1H, dt, J 10, 1 Hz), 6.81 (1H, d, J 8 Hz), 5.45 (2H, s) and 4.63 (2H, s); LC 73%, 2.24 min.

reactant | 6-(2-fluorobenzyloxy)nicotinic acid | 0.89 g | FC1=C(COC2=NC=C(C(=O)O)C=C2)C=CC=C1 | C13H10FNO3
reactant | lithium aluminium hydride | 1.0 M, 5.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium sodium tartrate | 1 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2-Fluorobenzyloxy)-5-pyridylmethanol | 0.63 g | FC1=C(COC2=NC=C(C=C2)CO)C=CC=C1 | C13H12FNO2
